US05688803
1.98 g (8.8 mmol) of tin dichloride were dissolved in 10 ml of conc. hydrochloric acid at 80° C. 494 mg (2 mmol) of 8-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione were added portionwise thereto. After heating at reflux for 2 hrs. the precipitate was filtered off, washed with water and dried in a vacuum. 315 mg (62%) of 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride were obtained as white crystals;

reactant | tin dichloride | 8.8 mmol, 1.98 g | [Sn](Cl)Cl
reactant | 8-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 2 mmol, 494 mg | [N+](=O)([O-])C=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O | C9H5N5O4
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione hydrochloride | 315 mg, 62% | Cl.NC=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O | InChI=1S/C9H7N5O2.ClH/c10-4-1-2-5-6(3-4)11-8(15)14-7(5)12-13-9(14)16;/h1-3H,10H2,(H,11,15)(H,13,16);1H
